US08049006B2
3-[(tert-butoxycarbonyl)amino]-2-(5-chloro-2-methoxybenzyl)propionic acid (compound 312)
To a solution of ethy 3-amino-2-(5-chloro-2-methoxybenzyl)propanoate (535.1 g) in an ethanol (4.3 liters), di-tert-butyl dicarbonate (622 ml) was added dropwise at room temperature, then the mixture was stirred at that temperature for 2 hours. Next, to the reaction solution, 5N aqueous sodium hydroxide solution (1.4 liters) was added and the mixture stirred for 16 hours. The reaction solution was concentrated in vacuo, then 6N hydrochloric acid was added to the residue to make the pH4, and the resultant mixture was extracted with ethyl acetate. The obtained organic layer was dried over anhydrous magnesium sulfate, then the solvent was distilled off in vacuo to obtain the title compound (795 g) as a colorless crystal.

reactant | ethy 3-amino-2-(5-chloro-2-methoxybenzyl)propanoate | 535.1 g | NCC(C(=O)OCC)CC1=C(C=CC(=C1)Cl)OC | C13H18ClNO3
reactant | di-tert-butyl dicarbonate | 622 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 5N, 1.4 liters | [OH-].[Na+]
solvent | ethanol | 4.3 liters | C(C)O | C2H6O
product | 3-[(tert-butoxycarbonyl)amino]-2-(5-chloro-2-methoxybenzyl)propionic acid | 795 g | C(C)(C)(C)OC(=O)NCC(C(=O)O)CC1=C(C=CC(=C1)Cl)OC | C16H22ClNO5
